* Subcircuit Flash_adc
.subckt Flash_adc net-_u1-pad1_ net-_sc1-pad2_ net-_u1-pad3_ net-_u1-pad4_ 
* c:\fossee\esim\library\subcircuitlibrary\flash_adc\flash_adc.cir
.include avsdcmp_3v3_sky130.sub
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ net-_sc1-pad2_ sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ net-_sc1-pad1_ sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc3 net-_sc3-pad1_ net-_sc2-pad1_ net-_sc2-pad1_ sky130_fd_pr__res_generic_pd L=5.2 W=1
xsc4 gnd net-_sc3-pad1_ net-_sc3-pad1_ sky130_fd_pr__res_generic_pd L=5.2 W=1
* u3  net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ adc_bridge_3
v1 net-_x1-pad1_ gnd  dc 3.3
x1 net-_x1-pad1_ net-_x1-pad1_ net-_x1-pad1_ net-_sc1-pad1_ net-_u3-pad1_ gnd avsdcmp_3v3_sky130
x2 net-_x1-pad1_ net-_x1-pad1_ net-_u1-pad1_ net-_sc2-pad1_ net-_u3-pad2_ gnd avsdcmp_3v3_sky130
x3 net-_x1-pad1_ net-_x1-pad1_ net-_u1-pad1_ net-_sc3-pad1_ net-_u3-pad3_ gnd avsdcmp_3v3_sky130
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ jayanth_flash_dec
* u4  net-_u2-pad4_ net-_u2-pad5_ net-_u1-pad4_ net-_u1-pad3_ dac_bridge_2
a1 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] u3
a2 [net-_u2-pad1_ ] [net-_u2-pad2_ ] [net-_u2-pad3_ ] [net-_u2-pad4_ ] [net-_u2-pad5_ ] u2
a3 [net-_u2-pad4_ net-_u2-pad5_ ] [net-_u1-pad4_ net-_u1-pad3_ ] u4
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.8 in_high=2.2 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             jayanth_flash_dec, NgSpice Name: jayanth_flash_dec
.model u2 jayanth_flash_dec(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )
* Control Statements

.ends Flash_adc